Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
spironolactone / atorvastatin
 
Attending: ___.
 
Chief Complaint:
hypoglycemia, respiratory failure  
 
Major Surgical or Invasive Procedure:
Intubation
CVL placement
PICC line placement

 
History of Present Illness:
Ms. ___ is a ___ with a PMhx of DVT, CAD/MI, T1DM (c/b 
gastroparesis, R BKA, neuropathy, autonomic dysfunction), and 
HTN who initially presented for fever, severe hypoglycemia and 
unresponsiveness requiring intubation, now with course 
complicated by sepsis (UCx with E coli, BCx with GPCs, GNRs and 
GPRs), being transferred from MICU to floor.  
 
In brief, prior to presentation, patient was noted by her 
husband to have a fever of 102 and a FSBG above 400. Her husband 
called EMS after he later found her to be unresponsive. Upon EMS 
arrival she was noted to have FSBG of 14 and respiratory rate of 
10. She was given dextrose 12.5 D50 and glucagon followed by 
10gm D10 dextrose. Improvement of FSBG to 110s on arrival to the 
ED. The patient is also on chronic narcotics at home, was given 
narcan en route with a change in respiratory rate from 10 to 24 
bpm. In the ED, patient was unresponsive and in respiratory 
disress. Labs sig for leukocytosis, Cr 3.1, UTox positive for 
amphetamine and methadone, STox positive for benzo. She was 
intubated in the ED and R IJ was placed. CT A/P showed no acute 
findings in A/P but atelectasis vs consolidation in L lungbase.  


In the MICU, patient was initially treated with ceftazidime and 
vanc was added when patient continued to spike fevers. Patient 
was extubated on ___ and speech and swallow was ordered due to 
concern for aspiration. She was also started on a ___ gtt 
for ongoing hypoglycemia.  In terms of infection, patient was 
initially thought to have urosepsis due to positive UA. BCx from 
___ grew GPR, GNR, GPC, Enterococcus. BCx from ___ and ___ 
have been NGTD.  Of note, patient was admitted in ___ with pna 
and UTI. Labetalol was also stopped that admission due to 
bradycardia. She required intubation during that admission.  

On arrival to the floor, the patient was afebrile and 
hemodynamically. Alert and oriented to person, answering 
questions with cognitive slowing. The patient was broadened to 
IV Zosyn given E.coli resistant to Ceftaz. She was hypertensive 
SBP 180-190s, received Hydralazine 25 mg PO x1 and increased 
Hydralazine to 50 mg PO Q8H. 
 
Past Medical History:
- H/o DVT 
- MI ___, no stents 
- DM type I. Followed by ___. 
- Peripheral neuropathy 
- gastroparesis 
- HTN 
- Hyperlipidemia 
- Hypothyroidism 
- PVD/PAD 
- Autonomic dysfunction, orthostatic hypotension 
- Barretts Esophagus on EGD ___ 
- Depression 
- S/p right BKA 
- Hiatal hernia 
- sciatica 
- S/p laminectomy 
- S/p hysterectomy
 
Social History:
___
Family History:
Mother - coronary artery disease with MI in her ___, died at age 

___.
Father - coronary artery disease with MI in her ___, died at 
age ___. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
 Vitals: 97.8, 175/54, 77, 99/2L  
 General: Alert, oriented to self and place, not to year/date, 
no acute distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear, neck supple, R 
IJ in place  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
 Ext: Warm, well perfused, no cyanosis or edema. RLE BKA.  
 Skin: Without rashes or lesions 

DISCHARGE PHYSICAL EXAM
General: Alert, oriented to self and place, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, neck supple, R 
IJ in place c/d/i
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: RRR, normal S1 + S2, no murmurs, rubs, gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, no cyanosis, no peripheral edema. RLE 
BKA without significant erythema or discharge 
Skin: Without rashes or lesions  
Neuro: A&Ox2. Grossly intact.  
 
Pertinent Results:
ADMISSION LABS
===============
___ 05:05AM BLOOD WBC-17.6*# RBC-2.69* Hgb-7.9* Hct-25.1* 
MCV-93 MCH-29.4 MCHC-31.5* RDW-14.6 RDWSD-48.8* Plt ___
___ 05:05AM BLOOD Neuts-80.3* Lymphs-12.0* Monos-5.5 
Eos-0.7* Baso-0.3 Im ___ AbsNeut-14.14*# AbsLymp-2.12 
AbsMono-0.97* AbsEos-0.13 AbsBaso-0.05
___ 05:05AM BLOOD ___ PTT-29.5 ___
___ 05:05AM BLOOD Plt ___
___ 05:05AM BLOOD Glucose-100 UreaN-36* Creat-3.1*# Na-138 
K-3.9 Cl-101 HCO3-22 AnGap-19
___ 05:05AM BLOOD ALT-11 AST-19 AlkPhos-144* TotBili-0.4
___ 05:05AM BLOOD cTropnT-0.02*
___ 05:08AM BLOOD CK-MB-3 cTropnT-0.02*
___ 05:05AM BLOOD Albumin-3.2* Calcium-8.0* Phos-3.4 Mg-1.9
___ 05:05AM BLOOD TSH-1.9
___ 05:05AM BLOOD Free T4-1.2
___ 05:05AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-POS* Barbitr-NEG Tricycl-NEG
___ 05:22AM BLOOD Type-ART Temp-36.7 pO2-55* pCO2-46* 
pH-7.36 calTCO2-27 Base XS-0 Intubat-INTUBATED
___ 05:22AM BLOOD Lactate-1.2 Na-136 K-3.7 Cl-102
___ 05:22AM BLOOD O2 Sat-87

DISCHARGE LABS
===============
___ 05:03AM BLOOD WBC-9.1 RBC-2.81* Hgb-8.1* Hct-25.1* 
MCV-89 MCH-28.8 MCHC-32.3 RDW-14.6 RDWSD-46.4* Plt ___
___ 05:03AM BLOOD Glucose-116* UreaN-22* Creat-1.7* Na-136 
K-3.3 Cl-98 HCO3-27 AnGap-14
___ 05:03AM BLOOD Calcium-8.3* Phos-3.4 Mg-1.8

IMAGING
========
CHEST (PORTABLE AP) ___:

IMPRESSION: 
1.  The tip of the ETT is seen 4.0 cm above the carina.
2.  Previously noted right upper lobe opacity from prior chest 
radiograph on
___ is not well seen on today's exam, likely resolved.
3.  New interstitial pulmonary edema and probable left pleural 
effusion.

CT HEAD W/O CONTRAST ___:
IMPRESSION: 
 
No acute intracranial process.

CT C-SPINE W/O CONTRAST ___:
IMPRESSION:
1. No acute fracture or traumatic malalignment of the cervical 
spine.
2. Multilevel degenerative changes are seen in the cervical 
spine, most
notably at the C4-C5 and C5-C6 vertebral levels, similar to 
prior exam in ___.
3. Ossification of the ligament of ligamentum flavum posteriorly 
is also unchanged.

CT ABD & PELVIS W/O CON ___:
IMPRESSION:
1. No evidence of acute CT findings in the abdomen or pelvis.
2. Prominent fat stranding around both kidneys is unchanged 
compared to prior
exam in ___.
3. Opacities are seen in the left lung base, incompletely 
evaluated on this nondedicated exam but possibly representing 
atelectasis versus consolidation.

CHEST (PORTABLE AP) ___

IMPRESSION: 
 
Right IJ central venous catheter terminates at the low SVC 
without evidence of pneumothorax.
 
Again seen patchy left base retrocardiac opacity which may be 
due to
atelectasis, although infection or aspiration not excluded in 
the appropriate clinical setting.
 
Persistent mild interstitial edema.

CHEST (PORTABLE AP) ___:
IMPRESSION: 
 
Comparison to ___.  Retrocardiac atelectasis 
persists.  Mild pulmonary edema is almost unchanged in severity. 
 Monitoring and support devices continue to be correctly 
positioned.

CHEST (PORTABLE AP) ___:
IMPRESSION: 
 
Mild pulmonary edema asymmetric right greater than left has 
improved. 
Opacities in the right lower lobe could represent asymmetric 
edema or
infection.  Cardiomegaly is stable.  Widening mediastinum is 
grossly
unchanged.  Retrocardiac opacities have improved.  If any there 
is a small left effusion.  There is no evident pneumothorax.  
Right IJ catheter tip is in the cavoatrial junction

MICROBIOLOGY
=================
16 4:35 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 CFU/mL.  PRESUMPTIVE 
IDENTIFICATION. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMIKACIN--------------     4 S
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--  =>32 R
CEFAZOLIN-------------  =>64 R
CEFEPIME--------------  =>64 R
CEFTAZIDIME-----------  =>64 R
CEFTRIAXONE-----------  =>64 R
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------  =>16 R
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----     8 S
TOBRAMYCIN------------  =>16 R
TRIMETHOPRIM/SULFA----  =>16 R

Close
___ 5:05 am BLOOD CULTURE     Site: ARM

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      ENTEROCOCCUS FAECALIS.    FINAL SENSITIVITIES. 
         HIGH LEVEL GENTAMICIN SCREEN: Susceptible to 500 mcg/ml 
of
         gentamicin. Screen predicts possible synergy with 
selected
         penicillins or vancomycin. Consult ID for details. 
         HIGH LEVEL STREPTOMYCIN SCREEN: Susceptible to 
1000mcg/ml of
         streptomycin.  Screen predicts possible synergy with 
selected
         penicillins or vancomycin.  Consult ID for details.. 
         Daptomycin 1 MCG/ML, Sensitivity testing performed by 
Etest. 
      CLOSTRIDIUM PERFRINGENS. 
      PROTEUS MIRABILIS.    FINAL SENSITIVITIES. 
      ENTEROCOCCUS FAECALIS.    ___ MORPHOLOGY). 
         HIGH LEVEL GENTAMICIN SCREEN: Susceptible to 500 mcg/ml 
of
         gentamicin. Screen predicts possible synergy with 
selected
         penicillins or vancomycin. Consult ID for details. 
         HIGH LEVEL STREPTOMYCIN SCREEN: Susceptible to 
1000mcg/ml of
         streptomycin.  Screen predicts possible synergy with 
selected
         penicillins or vancomycin.  Consult ID for details.. 
         Daptomycin 1.5 MCG/ML, Sensitivity testing performed by 
Etest. 
         FINAL SENSITIVITIES. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ENTEROCOCCUS FAECALIS
                             |          PROTEUS MIRABILIS
                             |          |          ENTEROCOCCUS 
FAECALIS
                             |          |          |   
AMPICILLIN------------   <=2 S      <=2 S      <=2 S
AMPICILLIN/SULBACTAM--              <=2 S
CEFEPIME--------------              <=1 S
CEFTAZIDIME-----------              <=1 S
CEFTRIAXONE-----------              <=1 S
CIPROFLOXACIN---------           <=0.25 S
DAPTOMYCIN------------       S                     S
GENTAMICIN------------              <=1 S
MEROPENEM-------------           <=0.25 S
PENICILLIN G----------     4 S                   2 S
PIPERACILLIN/TAZO-----              <=4 S
TOBRAMYCIN------------              <=1 S
TRIMETHOPRIM/SULFA----              <=1 S
VANCOMYCIN------------     1 S                   2 S

   Anaerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE ROD(S). 
      GRAM POSITIVE COCCI IN PAIRS AND CHAINS. 
      Reported to and read back by ___ AT 20:15 ON 
___. 
      GRAM NEGATIVE ROD(S). 
      Reported to and read back by ___ ___, @15:10 
ON ___. 

   Aerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI IN PAIRS AND CHAINS. 

Close
___ 5:05 am BLOOD CULTURE     Site: ARM

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      ENTEROCOCCUS FAECALIS. 
         IDENTIFICATION AND SENSITIVITIES PERFORMED ON CULTURE # 
450-___,
         ___. 
      ENTEROCOCCUS FAECALIS.    ___ MORPHOLOGY). 
         IDENTIFICATION AND SENSITIVITIES PERFORMED ON CULTURE # 
450-___,
         ___. 

   Anaerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI IN PAIRS AND CHAINS. 

   Aerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI IN PAIRS AND CHAINS. 

Close
___ 5:05 am BLOOD CULTURE     Site: ARM

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      ENTEROCOCCUS FAECALIS. 
         IDENTIFICATION AND SENSITIVITIES PERFORMED ON CULTURE # 
450-___,
         ___. 
      ENTEROCOCCUS FAECALIS.    ___ MORPHOLOGY). 
         IDENTIFICATION AND SENSITIVITIES PERFORMED ON CULTURE # 
450-7262D,
         ___. 

   Anaerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI IN PAIRS AND CHAINS. 

   Aerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI IN PAIRS AND CHAINS. 

Close
___ 4:23 pm MRSA SCREEN      Source: Nasal swab. 

                            **FINAL REPORT ___

   MRSA SCREEN (Final ___:    No MRSA isolated. 

Close
___ 4:23 pm SPUTUM      Source: Endotracheal. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      >25 PMNs and <10 epithelial cells/100X field. 
      4+   (>10 per 1000X FIELD):   GRAM NEGATIVE ROD(S). 

   RESPIRATORY CULTURE (Final ___: 
      UNKNOWN AMOUNT Commensal Respiratory Flora DUE TO 
OVERGROWTH OF GRAM
      NEGATIVE ROD(S). 
      ESCHERICHIA COLI.    MODERATE GROWTH. 
         Cefepime AVAILABLE UPON REQUEST. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--     4 S
CEFAZOLIN-------------  =>___ R
CEFTAZIDIME-----------     4 S
CEFTRIAXONE-----------  =>64 R
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

Close
___ 4:02 am BLOOD CULTURE      Source: Line-Right IJ. 

   Blood Culture, Routine: FINAL NO GROWTH

 
Brief Hospital Course:
___ yo CF with PMH DVT, CAD/MI, T1DM with gastroparesis/CKD stage 
III, neuropathy/R BKA, autonomic dysfunction, htn who presents 
with altered mental status in setting of hypoglycemia and 
sepsis.  

#Sepsis/Polymicrobial Infection: In the MICU, patient was 
initially treated with ceftazidime and vanc was added when 
patient continued to spike fevers. Patient was extubated on ___ 
and speech and swallow was ordered due to concern for 
aspiration. In terms of infection, patient was initially thought 
to have urosepsis due to positive UA which eventually grew MDR, 
ESBL E. Coli. BCx from ___ grew pan-S Proteus, E.faecalis of 
two different morphologies and clostridium perfringens. BCx from 
___ and ___ have been NGTD. Sputum with E. coli as well. ID 
was consulted. She was initially treated with meropenem and 
vancomcyin and eventually narrowed to zosyn monotherapy with 
plans for two week course (___). PICC line was placed for 
abx administration. TTE was negative for vegetations. 

# DM1 c/b hypoglycemia/hyperglycemia: Was hypoglycemic at home. 
Started on D5W in MICU. She then became hyperglycemic with FSGs 
400-500s. ___ was consulted for help with diabetes 
management. She was ultimately placed on on Lantus 30AM and ___ 
Lantus 7 units qhs. She was also on ___. She did continued to 
have labile blood sugars based on her the adequacy of her PO 
intake, which was limited by her dislike for the modified diet 
(pureed and ground solids). Her FSGs should be monitored 
closely.

# HTN/Hypertensive Urgency: After her stay in the ICU, the 
patient had SBPs 180-190s on arrival to the floor. Patient 
otherwise asymptomatic (no chest pain, dyspnea, headaches, or 
visual changes. She History of beta-blocker toxicity on 
labetolol and also with RBBB and LAFB on ECG limited beta 
blockade. Instead, clonidine and hydralazine were increased. She 
was also started on spironolactone and isosorbide. She was 
continued on amlodipine as well. 

#Altered mental status: Significantly improved with glucose and 
sepsis control. Ddx included hypoglycemia, narcotic overdose (on 
methadone), Utox positive for amphetamine and methadone, toxic 
metabolic encephalopathy in setting of infection. Patient denied 
any use of amphetamines. Methadone and gabapentin were held 
during hospitalization. These can be started cautiously as 
outpatient.  

#Acute on chronic kidney disease stage IV. Likely pre-renal in 
setting of infection. Creatinine improved after aggressive 
rehydration in MICU. Baseline Cr 1.6-2.5. Resolved.

#Acute on chronic anemia: baseline Hgb appears to be in 7s. 
Likely due to CKD per prior DC summary and plan was to start Epo 
soon. Required transfusion during prior admission. Low suspicion 
for active bleed. Over the course of her hospital stay, her H/H 
downtrended toHgb 6.8 for which she received 1u PRBC on ___ 
with appropriate increase in Hgb the next day. 

RESOLVED:
#Acute respiratory failure s/p intubation. In setting of severe 
hypoglycemia and narcotics. AMS has significantly improved.  
Extubated on ___.

CHRONIC ISSUES:  
# CAD: Continued home ASA 81, Plavix.

# Gastroparesis: Continued home metoclopramide 5mg with meals.
 
# Chronic Pain/Neuropathy: Held home methadone and gabapentin 
given mental status.

# Depression: Continued home citalopram.

# Hypothyroidism: Continued home levothyroxine 88 mcg PO QD.

# GERD: Continued home PPI.

TRANSITIONAL ISSES:
- Continue zosyn through ___
- New medication: spironolactone 25mg PO daily and isosorbide 
20mg TID (for HTN)
- Recommend urogyn follow up given multiple UTIs to assess for 
neurogenic bladder given DM-related neuropathy
- Restart methadone and gabapentin cautiously if needed. These 
were held for the duration of the entire hospital stay.
- Monitor ___ closely
# CODE STATUS: Full  
# CONTACT: ___ (husband) Cell phone: ___  

Please also refer to my discharge communication from the day of 
discharge for additional information.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 10 mg PO DAILY 
2. Ascorbic Acid ___ mg PO BID 
3. Aspirin 81 mg PO DAILY 
4. Calcitriol 0.25 mcg PO DAILY 
5. Citalopram 20 mg PO DAILY 
6. Clopidogrel 75 mg PO DAILY 
7. Cyanocobalamin 1000 mcg PO DAILY 
8. Ferrous GLUCONATE 324 mg PO DAILY 
9. Furosemide 20 mg PO DAILY 
10. Gabapentin 300 mg PO TID 
11. HydrALAZINE 25 mg PO Q8H 
12. Levothyroxine Sodium 88 mcg PO DAILY 
13. Methadone 5 mg PO TID:PRN pain 
14. Metoclopramide 5 mg PO QIDACHS 
15. Multivitamins 1 TAB PO DAILY 
16. Pantoprazole 40 mg PO Q24H 
17. Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild 
18. Aluminum-Magnesium Hydrox.-Simethicone ___ mL PO QID:PRN 
heart burn 
19. Artificial Tears ___ DROP BOTH EYES PRN dry eye 
20. Benzonatate 100 mg PO TID:PRN Cough 
21. CloNIDine 0.2 mg PO BID 
22. Cepacol (Sore Throat Lozenge) 1 LOZ PO Q4H:PRN sore throat 
23. Docusate Sodium 100 mg PO BID 
24. Guaifenesin-Dextromethorphan 5 mL PO Q6H:PRN cough 
25. Milk of Magnesia 30 mL PO Q6H:PRN constipation 
26. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
27. Senna 8.6 mg PO BID:PRN constipation 
28. Combigan (brimonidine-timolol) 0.2-0.5 % ophthalmic BID 
29. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheeze 
30. dextran 70-hypromellose 0.1-0.3 % ophthalmic DAILY:PRN 
31. Lidocaine 5% Ointment 1 Appl TP BID 
32. Rosuvastatin Calcium 10 mg PO QPM 
33. Tiotropium Bromide 1 CAP IH DAILY 
34. travoprost 0.004 % ophthalmic QPM 
35. Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
36. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
37. Glargine 30 Units Breakfast
Insulin SC Sliding Scale using HUM Insulin
38. Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES Q12H 

 
Discharge Medications:
1.  Isosorbide Dinitrate 20 mg PO TID  
2.  Miconazole Powder 2% 1 Appl TP TID:PRN axillary rash  
3.  Piperacillin-Tazobactam 2.25 g IV Q6H  
4.  Spironolactone 25 mg PO DAILY  
5.  Zolpidem Tartrate 5 mg PO QHS:PRN insomnia 
RX *zolpidem 5 mg 1 tablet(s) by mouth at night Disp #*10 Tablet 
Refills:*0 
6.  CloNIDine 0.3 mg PO BID  
7.  HydrALAZINE 100 mg PO Q8H  
8.  Glargine 30 Units Breakfast
Glargine 7 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin 
9.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
10.  Albuterol Inhaler 2 PUFF IH Q6H:PRN wheeze  
11.  amLODIPine 10 mg PO DAILY  
12.  Ascorbic Acid ___ mg PO BID  
13.  Aspirin 81 mg PO DAILY  
14.  Calcitriol 0.25 mcg PO DAILY  
15.  Citalopram 20 mg PO DAILY  
16.  Clopidogrel 75 mg PO DAILY  
17.  Combigan (brimonidine-timolol) 0.2-0.5 % ophthalmic BID  
18.  Cyanocobalamin 1000 mcg PO DAILY  
19.  Docusate Sodium 100 mg PO BID  
20.  Ferrous GLUCONATE 324 mg PO DAILY  
21.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID  
22.  Furosemide 20 mg PO DAILY  
23.  Levothyroxine Sodium 88 mcg PO DAILY  
24.  Lidocaine 5% Ointment 1 Appl TP BID  
25.  Metoclopramide 5 mg PO QIDACHS  
26.  Milk of Magnesia 30 mL PO Q6H:PRN constipation  
27.  Multivitamins 1 TAB PO DAILY  
28.  Pantoprazole 40 mg PO Q24H  
29.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
30.  Rosuvastatin Calcium 10 mg PO QPM  
31.  Senna 8.6 mg PO BID:PRN constipation  
32.  Tiotropium Bromide 1 CAP IH DAILY  
33.  travoprost 0.004 % ophthalmic QPM  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
PRIMARY
Altered Mental Status
Sepsis
Bacteremia
ESBL UTI
Hypertensive Urgency
Hyperglycemia
Acute Respiratory Failure 

SECONDARY
Diabetes Mellitus Type 1
Coronary Artery Disease
Gastroparesis
Depression
Hypothyroidism
Gastroesophageal Reflux Disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear ___,

___ was a pleasure taking care of you during your hospitalization 
at ___. You were admitted with very low blood sugar which 
caused you to be confused such that you needed help breathing. 
You had a breathing tube placed and were initially in the 
intensive care unit where you were found to have bacteria in 
your lungs, blood stream and urine. You were seen by ___ for 
help with your diabetes and also by Infectious Disease for help 
with antibiotics. You were very weak from your hospitalization 
so we have arranged for you to work on your strength at rehab.

You requested the information for the office of Patient 
Relations. This the department to discuss your concerns about 
losing your teeth and what it will take to reorder a new set. We 
are sorry!!
Patient Relations 
 Department of Health Care Quality 
 ___ 
 ___ 
___ 
 ___ 

Please follow-up with your doctors as below and make sure you 
take your medications as prescribed.

We wish you the best.
- Your ___ Team
 
Followup Instructions:
___